US08957203B2
Preparation of 5-chloro-1-fluoro-3-(2-methoxyethoxy)isoquinoline
To a solution of 1,5-dichloro-3-(2-methoxyethoxy)isoquinoline (578 mg, 2.124 mmol) in DMSO (5 mL) was added CsF (323 mg, 2.124 mmol) and heated to 140° C. for 2 hrs. LC/MS showed the desired product. The reaction was diluted with ethyl acteate and washed with water, and brine. The organic phase was collected, dried over MgSO4, and concentrated under vacuum to give the crude product as a reddish brown solid. Crude product purified via biotage (90 g column, 5-50% EtAOc:Hex) to give the product 5-chloro-1-fluoro-3-(2-methoxyethoxy)isoquinoline (250 mg, 46% yield) as a light yellow solid. MS: MS m/z 256.15(M++1).

reactant | 1,5-dichloro-3-(2-methoxyethoxy)isoquinoline | 2.124 mmol, 578 mg | ClC1=NC(=CC2=C(C=CC=C12)Cl)OCCOC | C12H11Cl2NO2
reactant | CsF | 2.124 mmol, 323 mg | [F-].[Cs+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 5-chloro-1-fluoro-3-(2-methoxyethoxy)isoquinoline | ClC1=C2C=C(N=C(C2=CC=C1)F)OCCOC | C12H11ClFNO2
